US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-trifluoromethyl-benzylamino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole, 4-(trifluoromethyl)benzylamine, and ethanol essentially as described above in Example 112. Purity by LC/MS=95%, [M+H]+=461.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-trifluoromethyl-benzylamino)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CNCC3=CC=C(C=C3)C(F)(F)F)O)C=C2)C=C1 | C24H20F4N2O3
